US08242111B2
A mixture of 1-chloro-3-(4-fluorophenyl)hex-5-en-3-ol (760 mg, 3.3 mmol), (S)-tert-butyl 3-aminopiperidine-1-carboxylate (1.0 g, 5 mmol), KI (1.1 g, 6.7 mmol) and K2CO3 (920 mg, 6.7 mmol) in acetonitrile (33 mL) was heated to reflux overnight. The reaction mixture was filtered. The filtrate was condensed to give the crude product, which was purified by preparative TLC to afford (3S)-tert-butyl-3-(3-(4-fluorophenyl) -3-hydroxyhex-5-enylamino)piperidine-1-carboxylate (500 mg, 38%). 1H NMR: (CDCl3): 1.23 (m, 1H), 1.38 (d, 9H), 1.57 (m, 1H), 1.75 (broad, 1H), 1.94 (m, 2H), 2.37 (m, 1H), 2.43 (m, 2H), 2.56 (m, 1H), 2.80 (broad, 3H), 3.49 (broad, 1H), 3.71 (broad, 3H), 4.95 (d, 2H), 5.56 (m, 1H), 6.95 (t, 2H), 7.32 (m, 2H).

reactant | 1-chloro-3-(4-fluorophenyl)hex-5-en-3-ol | 3.3 mmol, 760 mg | ClCCC(CC=C)(O)C1=CC=C(C=C1)F | C12H14ClFO
reactant | (S)-tert-butyl 3-aminopiperidine-1-carboxylate | 5 mmol, 1.0 g | N[C@@H]1CN(CCC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | K2CO3 | 6.7 mmol, 920 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 33 mL | C(C)#N | C2H3N
product | (3S)-tert-butyl-3-(3-(4-fluorophenyl) -3-hydroxyhex-5-enylamino)piperidine-1-carboxylate | 500 mg, 38% | C(C)(C)(C)OC(=O)N1C[C@H](CCC1)NCCC(CC=C)(O)C1=CC=C(C=C1)F | C22H33FN2O3
